US07521447B2
Step D: (5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloroethyl ester:
A cooled (0° C.) biphasic solution of 5-tert-butyl-2-p-tolyl-2H-pyrazol-3-ylamine (26.6 g, 100 mmol) in water (80 mL) and ethyl acetate (180 mL) was treated with NaOH (10 g, 250 mmol) followed by trichloroethylchloroformate (29.7 g, 140 mmol). The reaction mixture was warmed to room temperature and stirred for 1 hour. The layers were separated and the organic layer was washed with brine (100 mL), dried over MgSO4, filtered through Celite, and concentrated under reduced pressure to provide 40.3 g of pale yellow solid (99% yield).

reactant | 5-tert-butyl-2-p-tolyl-2H-pyrazol-3-ylamine | 100 mmol, 26.6 g | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)N | C14H19N3
reactant | NaOH | 250 mmol, 10 g | [OH-].[Na+]
reactant | trichloroethylchloroformate | 140 mmol, 29.7 g | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
solvent | water | 80 mL | O | H2O
solvent | ethyl acetate | 180 mL | C(C)(=O)OCC | C4H8O2
product | (5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloroethyl ester | 40.3 g, 99% yield | ClC(COC(NC=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C)=O)(Cl)Cl | C17H20Cl3N3O2
